US08334301B2
N-methyl-3-[(methylamino)methyl]-N,1-diphenyl-1H-pyrazole-5-amine hydrochloride
tert-Butyl methyl({5-[methyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)carbamate (67 mg) was dissolved in ethyl acetate (1 mL) and methanol (0.5 mL), a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) was added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from a mixed solvent of ethyl acetate and hexane, and recrystallized from a mixed solvent of ethyl acetate and ethanol to give the title compound as colorless crystals (yield 25 mg, yield 45%).

reactant | tert-Butyl methyl({5-[methyl(phenyl)amino]-1-phenyl-1H-pyrazol-3-yl}methyl)carbamate | 67 mg | CN(C(OC(C)(C)C)=O)CC1=NN(C(=C1)N(C1=CC=CC=C1)C)C1=CC=CC=C1 | C23H28N4O2
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.5 mL | CO | CH4O
product | N-methyl-3-[(methylamino)methyl]-N,1-diphenyl-1H-pyrazole-5-amine hydrochloride | yield 25 mg, yield 45% | Cl.CN(C1=CC(=NN1C1=CC=CC=C1)CNC)C1=CC=CC=C1 | InChI=1S/C18H20N4.ClH/c1-19-14-15-13-18(21(2)16-9-5-3-6-10-16)22(20-15)17-11-7-4-8-12-17;/h3-13,19H,14H2,1-2H3;1H
